US04036838
68.6 g (0.5 mol) of 4-nitrotoluene were dissolved in 80 ml of methylene chloride and 38.6 g (0.6 mol) of 98% by weight nitric acid, followed by the addition with stirring over a period of 1 hour at reflux temperature of 40 g of 100% by weight sulphuric acid. After stirring under reflux for another 2 hours, the methylene chloride phase was separated off without cooling and washed three times while still hot with 3 × 200 ml of water. After the washing water had been carefully separated off, the methylene chloride was distilled off, leaving 90.2 g of dinitrotoluene containing 99% of 2,4-dinitrotoluene (98% of the theoretical yield).

reactant | 4-nitrotoluene | 0.5 mol, 68.6 g | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | dinitrotoluene | 90.2 g, 99% | [N+](=O)([O-])C=1C(=C(C=CC1)C)[N+](=O)[O-] | C7H6N2O4
